US08686022B2
(S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-[5-tert-butyl-2-methoxy-3-(propane-1-sulphonylamino)-phenyl]-amide
200 mg of 1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-amino-5-tert-butyl-2-methoxy-phenyl)-amide trihydrochloride are dissolved in 2 ml dichloromethane and mixed successively with 210 μl triethylamine, 80 μl propylsulphonic acid chloride and 70 μl pyridine. The mixture is stirred for 2 hours at ambient temperature, a further 80 μl of propylsulphonic acid chloride are added and the mixture is stirred for a further 12 hours. The solvents are eliminated in vacuo and the residue is purified by preparative HPLC (method 3).

reactant | 1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-amino-5-tert-butyl-2-methoxy-phenyl)-amide trihydrochloride | 200 mg | Cl.Cl.Cl.NC=1C(=C(C=C(C1)C(C)(C)C)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)C1N(CCC1)C)C)OC
reactant | triethylamine | 210 μl | C(C)N(CC)CC | C6H15N
reactant | propylsulphonic acid chloride | 80 μl | C(CC)S(=O)(=O)Cl | C3H7ClO2S
reactant | pyridine | 70 μl | N1=CC=CC=C1 | C5H5N
reactant | propylsulphonic acid chloride | 80 μl | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-[5-tert-butyl-2-methoxy-3-(propane-1-sulphonylamino)-phenyl]-amide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC)NS(=O)(=O)CCC | C35H50N6O5S
